US08937073B2
1d) (S)-3-[(6-oxo-1,6-dihydro-pyridazine-4-carbonyl)-amino]-tetrahydro-furan-3-carboxylic acid
n-Butyl(S)-3-[(6-oxo-1,6-dihydro-pyridazine-4-carbonyl)-amino]-tetrahydrofuran-3-carboxylate (21.0 g, 67.9 mmol) was stirred vigorously in 200 mL of 1N sodium hydroxide solution for 1 hour. The mixture was then extracted twice with 100 mL of diethyl ether, the alkaline aqueous phase was then combined with 50 mL of 4N hydrochloric acid. The mixture was then evaporated to dryness and the residue was stirred with 150 mL ethanol. Undissolved ingredients were then filtered off and the filtrate was evaporated down. In this way the product was obtained in a yield of 71% of theory. The product thus obtained was further processed without purification.

reactant | n-Butyl(S)-3-[(6-oxo-1,6-dihydro-pyridazine-4-carbonyl)-amino]-tetrahydrofuran-3-carboxylate | 67.9 mmol, 21.0 g | O=C1C=C(C=NN1)C(=O)N[C@@]1(COCC1)C(=O)OCCCC | C14H19N3O5
solvent | sodium hydroxide | 1N, 200 mL | [OH-].[Na+]
product | (S)-3-[(6-oxo-1,6-dihydro-pyridazine-4-carbonyl)-amino]-tetrahydro-furan-3-carboxylic acid | yield of 71% | O=C1C=C(C=NN1)C(=O)N[C@@]1(COCC1)C(=O)O | C10H11N3O5
